US04066648
To a mixture of 10 g of 2,5-dimethoxyphenethyl alcohol and 10 g of chloroacetaldehyde diethyl acetal was added 14 ml of 10% hydrochloric acid and, after stirring at 80°-90° C for 1 hour, the reaction mixture was diluted with 100 ml of water and extracted with benzene. The extract was rinsed with water, dried and concentrated under reduced pressure. The residue was recrystallized from a solvent mixture of ether and petroleum ether. By the above procedure was obtained 14 g of 1-chloromethyl-5,8-dimethoxyisochroman as colorless needles, melting point: 101°-102° C.

reactant | 2,5-dimethoxyphenethyl alcohol | 10 g | COC1=C(CCO)C=C(C=C1)OC | C10H14O3
reactant | chloroacetaldehyde diethyl acetal | 10 g | C(C)OC(CCl)OCC | C6H13ClO2
reactant | hydrochloric acid | 14 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
product | 1-chloromethyl-5,8-dimethoxyisochroman | 14 g | ClCC1OCCC2=C(C=CC(=C12)OC)OC | C12H15ClO3
